US04804762
Preparation of N-(1-cyano-2-methylpropyl)-2-chloroisonicotinamide (No. 29)
2.0 g (0.02 mol) of 2-amino-3-methylbutyronitrile and 2.8 ml (0.02 mol) of triethylamine were dissolved in 30 ml of methylene chloride. The solution was cooled to 10° C. or below and 3.0 g (0.017 mol) of 2-chloroisonicotinoyl chloride was added dropwise thereto at 10° C. or below lest unfavorable heat generation should occur. Then, the mixture was stirred at room temperature for 1.5 h to conduct a reaction. Water and ethyl acetate were added thereto to conduct extraction. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated to obtain an oil, which was purified according to silica gel column chromatography to obtain 3.4 g (yield: 84.1%) of the intended product in the form of a colorless oil.

reactant | 2-amino-3-methylbutyronitrile | 0.02 mol, 2.0 g | NC(C#N)C(C)C | C5H10N2
reactant | triethylamine | 0.02 mol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloroisonicotinoyl chloride | 0.017 mol, 3.0 g | ClC=1C=C(C(=O)Cl)C=CN1 | C6H3Cl2NO
reactant | Water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-cyano-2-methylpropyl)-2-chloroisonicotinamide | 3.4 g, yield: 84.1% | C(#N)C(C(C)C)NC(C1=CC(=NC=C1)Cl)=O | C11H12ClN3O
